US05210092
A mixture of 7-methyl-2-propyl-3-[4-[2-(1H-tetrazol-5-yl)4-vinyl-1-pyrrolyl]benzyl]-3H-imidazo[4,5-b]pyridine (40 mg), 10% palladium on carbon (10 mg) and methanol (5 ml) was stirred at room temperature for 4 hours under hydrogen atmosphere (3 atm). After filtration, the filtrate was evaporated in vacuo. The residue was purified by preparative thin layer chromatography (dichloromethane:methanol=5:1) to give 3-[4-[4-ethyl-2-(1H-tetrazol-5-yl)-1-pyrrolyl]benzyl]-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine (20 ml).

reactant | 7-methyl-2-propyl-3-[4-[2-(1H-tetrazol-5-yl)4-vinyl-1-pyrrolyl]benzyl]-3H-imidazo[4,5-b]pyridine | 40 mg | CC1=C2C(=NC=C1)N(C(=N2)CCC)CC2=CC=C(C=C2)N2C(=CC(=C2)C=C)C2=NN=NN2 | C24H24N8
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
product | 3-[4-[4-ethyl-2-(1H-tetrazol-5-yl)-1-pyrrolyl]benzyl]-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine | 20 ml | C(C)C=1C=C(N(C1)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)CCC)C=C1)C1=NN=NN1 | C24H26N8
